Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever and rigors
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year-old right-handed man with history of tachyarrhythmia
(unclear what type specifically), hyperlipidemia, chronic low
back pain, and anxiety who presents with an episode of rigors,
nausea/vomiting and gait unsteadiness. Currently, the patient
reports being essentially back to his baseline. His neurologic
examination is within normal limits apart from mild right
nasolabial fold flattening at rest, which per review of prior
photographs (including his license photo) is known and not a new
finding.

In the ED, initial VS were Temp 99.2F HR 118 116/67 RR 18 99% RA 

   
Exam in ED not recorded  
Labs showed  
WBC 6.6 hgb 14.6 plt 153 
ALT 15 AST 24 AP 84 Tbili 0.3 Lipase 23 Alb 4.6 
Na+ 140 K+ 3.7 BUN 18 Cr 1.0 Glucose 110 
Lactate 1.7 
Trop <0.01 
UA tox opiates pos; neg for benos, barbs, cocaine, amphet,
methdne
UA leuk lg, nitr pos, WBC >182 Bact mod 
UCx, BCx pending 

EKG NSR HR 93 QTc 437 

Imaging showed 
___ CT head w/o contrast 
No acute intracranial abnormalities. However, MRI would be more
sensitive for detection acute ischemia.

___ CXR 
Findings may represent right lower lobe pneumonia in the right
clinical setting.
 
Received 
___ 21:55 IV Ondansetron 4 mg 
___ 22:20 IV Ondansetron 4 mg  
___ 01:37 IV CefTRIAXone 1 gm 
___ 02:33 PO Acetaminophen 1000 mg 
___ 02:33 IV Ondansetron 4 mg 
___ 03:02 IV Azithromycin 500 mg 
___ 03:05 IV Ondansetron 4 mg  
___ 03:05 IV Acetaminophen IV 1000 mg 
  
Transfer VS were temp 98.6F HR 104 136/78 RR 20 100% RA 

Patient with a history of PNA in ___ otherwise no significant
illness.  Patient has not history of chest pain, Negative 
stress,
no catheterizations. 

Drinks  ___ daily  daily whiskey 3fingers "drug of choice" also
took klonpin yesterday evening for sleep prescribed by doctor at
___. No history of IVDU denied opiates even though 
urine positive. 

Neurology was consulted and stated unlikely stroke or TIA. No
meningeal signs of headache next stiffness 
 
On arrival to the floor, patient reports patient drowsy not in
pain. He denies symptoms of pneumonia : no coughor croyza. He
denies symptoms of urinaty tract infection no dysuria burning
stinging with urination.  Patient still feeling nauseous and is
drowsy and cognition is foggy 
 
Past Medical History:
___ pneumonia
___ - surgery to repair injury to left hand in machine 
operating accident  
tachyarrhythmia (unspecified but takes atenolol)
h/o chest pain reportedly negative stress test 
HTN 
HLD 
 
Social History:
___
Family History:
No history of early cardiac death 
otherwise non-contributory  

 
Physical Exam:
Admission Physical Exam
VS: Temp 100.5 PO 113/56 R lying HR 96 RR 18 94% RA   
GENERAL: NAD, drowsy   
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, no JVD  
HEART: tachycardia, S1/S2, no murmurs, gallops, or rubs  
LUNGS: Moving air well, course breath sounds on the right base. 
no wheezes, rales, rhonchi, breathing comfortably without use of
accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, hepatomegaly. No splenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

Discharge Physical exam
PE  
Vitals: 99.3 PO ___ 18 95 Ra  
GENERAL: NAD, alert and awake 
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
 NECK: supple, no LAD, no JVD.
 HEART:  S1/S2, no murmurs, gallops, or rubs  
 LUNGS: Moving air well, CTAB. no wheezes, rales, rhonchi 
 ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding. Hepatomegaly with no splenomegaly
 GU: no CVA tenderness.  
 RECTAL: 
 EXTREMITIES: no cyanosis, clubbing, or edema.
 PULSES: 2+ DP pulses bilaterally  
 NEURO: A&Ox3
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
 
Pertinent Results:
Admission labs
___ 09:50PM BLOOD WBC-6.6 RBC-4.74 Hgb-14.6 Hct-41.5 MCV-88 
MCH-30.8 MCHC-35.2 RDW-13.0 RDWSD-41.7 Plt ___
___ 09:50PM BLOOD Neuts-90.0* Lymphs-8.4* Monos-0.6* 
Eos-0.5* Baso-0.2 Im ___ AbsNeut-5.90 AbsLymp-0.55* 
AbsMono-0.04* AbsEos-0.03* AbsBaso-0.01
___ 09:50PM BLOOD Plt ___
___ 09:50PM BLOOD Glucose-110* UreaN-18 Creat-1.0 Na-140 
K-3.7 Cl-102 HCO3-27 AnGap-15
___ 09:50PM BLOOD ALT-15 AST-24 AlkPhos-84 TotBili-0.3
___ 09:50PM BLOOD Lipase-23
___ 09:50PM BLOOD cTropnT-<0.01
___ 09:50PM BLOOD Albumin-4.6
___ 09:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG Opiate-POS
___ 11:17PM BLOOD Lactate-1.7

Discharge labs

___ 05:55AM BLOOD WBC-5.0 RBC-4.29* Hgb-13.0* Hct-38.2* 
MCV-89 MCH-30.3 MCHC-34.0 RDW-13.5 RDWSD-43.6 Plt Ct-74*
___ 05:55AM BLOOD Plt Ct-74*
___ 05:55AM BLOOD Glucose-78 UreaN-14 Creat-1.0 Na-138 
K-4.0 Cl-103 HCO3-23 AnGap-16
___ 05:55AM BLOOD Calcium-8.5 Phos-2.2* Mg-2.1

___ 12:45 am BLOOD CULTURE

   Blood Culture, Routine (Preliminary): 
      GRAM NEGATIVE ROD(S). 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM NEGATIVE ROD(S). 
      Reported to and read back by ___ (___) AT 
1628 ON
      ___. 
___ 11:25 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMIKACIN--------------   <=2 S
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------     8 R
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----    16 S
TOBRAMYCIN------------     8 I
TRIMETHOPRIM/SULFA----  =>16 R

___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ URINE Legionella Urinary Antigen -FINAL 
INPATIENT 
___ Rapid Respiratory Viral Screen & Culture 
Respiratory Viral Antigen Screen-FINAL; Respiratory Viral 
Culture-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 

 
 

 
Brief Hospital Course:
========================================
Acute medical/surgical issues addressed
========================================

# Severe sepsis secondary to 
# E. coli blood stream infection from primary source as
# Urinary Tract Infection, Complicated
Admitted with encephalopathy which was initially concerning for 
possible seizure or TIA however neurological examination by 
primary team and neurology were unremarkable. Admission UA was 
concerning for a UTI and patient was started empirically in 
ceftriaxone. Patient continued to have intermittent fevers 
throughout the day. On ___ blood culture returned positive for 
gram negative rods and treatment was escalated from ceftriaxone 
to cefepime as source at the time was unknown. Patient's 
clinical status improved on cefepime and remained afebrile for 
remainder of hospitalization. Ultrasound of kidneys was done on 
___ and showed a slightly enlarged prostate but no 
nephrolithiasis or evidence of pyelonephritis. On ___, urine 
and blood cultures returned positive for E. coli sensitive to 
ciprofloxacin and transitioned to ciprofloxacin 500mg PO BID. 
Source at this time presumed to be from UTI. Prostate exam was 
done and prostate was non-tender and non-enlarged. To continue 
treatment to complete 14 day course from last negative blood 
culture. 
    
#E. Coli UTI
Although patient was asymptomatic, this is likely the source of 
bacteremia given that the same organism speciated from both 
urine and blood cultures and workup for other causes was 
unrevealing. Prostate exam was done and prostate was non-tender 
and non-enlarged making prostatitis unlikely. 
    
#Encephalopathy
Initially concern for opiate-induced altered mental status given 
positive Utox for opiates. However, patient had history of 
eating a substantial amount of poppy seeds a day prior to 
admission and based on numerous conversations with patient, wife 
and discussion with outpatient providers and pharmacy, the 
patient is not using nor has ever used opiates. AMS likely 
metabolic encephalopathy in setting of bacteremia. Patient 
returned to baseline with resolution in sepsis.
        
#Thrombocytopenia
Platelet 153 on admission and decreased to nadir at 61 on ___. 
Likely a reactive process to gram negative bacteremia, improved 
prior to discharge. 

==================
Chronic issues
==================

#Hyperlipidemia
Crestor was held during admission but patient to restart on 
discharge

#Tachyarrythmia
Patient with regular heart rate during this hospitalization.
    
====================
Transitional Issues
====================
[ ] Patient to complete a 14 day course of Ciprofloxacin 500mg 
PO BID from date of last negative blood culture
[ ] Follow-up pending blood cultures

 
Medications on Admission:
1. Atenolol 12.5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. azelastine 0.15 % (205.5 mcg) nasal DAILY:PRN 
4. ClonazePAM 0.5 mg PO BID:PRN anixety
5. Crestor MWF (unclear on dose)

 
Discharge Medications:
1. Atenolol 12.5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. azelastine 0.15 % (205.5 mcg) nasal DAILY:PRN 
4. ClonazePAM 0.5 mg PO BID:PRN anixety
5. Crestor MWF (unclear on dose)
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
E. coli rod bacteremia
E. coli UTI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

Thank you very much for allowing us to take care of you during 
your hospitalization at ___.

While you were in the hospital,

-We found an infection in your bladder and blood and treated you 
with antibiotics. 
-We did an Ultrasound of your kidneys to search for a cause of 
your infection and your kidney's looked normal.

When you leave the hospital, it is important that you continue 
to take your antibiotic medication called ciprofloxacin as 
prescribed. You will take the medication for 14 days. It is also 
important that you follow-up with your primary care physician 
within ___ week of leaving the hospital.

 
Followup Instructions:
___